US08012499B2
Step A: Preparation of 3-methyl-N-(1-methylethyl)-2-nitrobenzeneacetamide
To a slurry of 3-methyl-2-nitrobenzeneacetic acid (prepared by the method of H. Rapoport et al., J. Org. Chem., 1954, 77, 670-675 from 1,3-dimethyl-2-nitrobenzene, 0.70 g, 3.6 mmol) in 10 mL of dichloromethane was added oxalyl chloride (0.41 mL, 4.7 mmol) and two drops of N,N-dimethylformamide. The reaction mixture was stirred for 20 minutes, resulting in a solution. The volatiles were removed with a rotary evaporator. The residue was dissolved in 10 mL of dichloromethane. Half of this material was added dropwise at 0° C. to isopropylamine (1 mL) in 5 mL of dichloromethane. The reaction mixture was stirred overnight at room temperature. Saturated sodium bicarbonate solution was added, and the reaction mixture was passed through a Celite® diatomaceous filter aid cartridge. The solvent was removed with a rotary evaporator to afford the title compound as an orange solid (0.40 g).

reactant | 3-methyl-2-nitrobenzeneacetic acid | CC=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C9H9NO4
reactant | 1,3-dimethyl-2-nitrobenzene | CC1=C(C(=CC=C1)C)[N+](=O)[O-] | C8H9NO2
reactant | oxalyl chloride | 4.7 mmol, 0.41 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
product | 3-methyl-N-(1-methylethyl)-2-nitrobenzeneacetamide | 0.40 g | CC=1C(=C(C=CC1)CC(=O)NC(C)C)[N+](=O)[O-] | C12H16N2O3
